US07402595B2
[Step 2] To a solution (25 ml) of 2-benzoyl-4-bromo-N-(2-hydroxyhexyl)-N-(4-methanesulfonylbenzyl)benzamide (2.3 g) in DMSO was added triethylamine (9 ml), and pyridine sulfur trioxide complex (5.2 g) was added at room temperature. The mixture was stirred for 1 hr. and added to water. 10% Hydrochloric acid was added to acidify the aqueous layer and the mixture was extracted with ethyl acetate. The organic layer was washed with water, saturated aqueous sodium hydrogen carbonate, water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give 2-benzoyl-4-bromo-N-(4-methanesulfonylbenzyl)-N-(2-oxohexyl)benzamide (1.75 g).

reactant | 2-benzoyl-4-bromo-N-(2-hydroxyhexyl)-N-(4-methanesulfonylbenzyl)benzamide | 25 ml, 2.3 g | C(C1=CC=CC=C1)(=O)C1=C(C(=O)N(CC2=CC=C(C=C2)S(=O)(=O)C)CC(CCCC)O)C=CC(=C1)Br | C28H30BrNO5S
reactant | triethylamine | 9 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
reactant | Hydrochloric acid | Cl | ClH
solvent | DMSO | CS(=O)C | C2H6OS
product | 2-benzoyl-4-bromo-N-(4-methanesulfonylbenzyl)-N-(2-oxohexyl)benzamide | 1.75 g | C(C1=CC=CC=C1)(=O)C1=C(C(=O)N(CC(CCCC)=O)CC2=CC=C(C=C2)S(=O)(=O)C)C=CC(=C1)Br | C28H28BrNO5S
